US05656639
A) Diethyl 3-cyano-3-(3,4-dichlorophenyl)pentane-1,5-dioate
4.3 g of sodium hydride as a 60% dispersion in oil are added to a solution of 10 g of 3,4-dichlorophenylacetonitrile in 50 ml of THF and the mixture is stirred until the evolution of hydrogen has ceased. It is cooled to 0° C. and a solution of 18 g of ethyl bromoacetate in 50 ml of THF is added dropwise. The mixture is allowed to return to RT and stirred overnight. It is evaporated to dryness, the residue is taken up with ether and the mixture is washed with a buffer solution of pH 2 and dried over MgSO. The residue is chromatographed on silica using a DCM/AcOEt mixture (80/20; v/v) as the eluent to give 15 g of the expected compound.

reactant | sodium hydride | 4.3 g | [H-].[Na+]
reactant | 3,4-dichlorophenylacetonitrile | 10 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | hydrogen | [H][H] | H2
reactant | ethyl bromoacetate | 18 g | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Diethyl 3-cyano-3-(3,4-dichlorophenyl)pentane-1,5-dioate | 15 g | C(#N)C(CC(=O)OCC)(CC(=O)OCC)C1=CC(=C(C=C1)Cl)Cl | C16H17Cl2NO4
